US06365598B1
1-Methoxy-6-methyl-5-nitroisoquinoline
A stirred solution of 1-chloro-6-methyl-5-nitroisoquinoline (1.2 g, 5.4 mmol) and sodium methoxide (0.6 g, 95%, 11 mmol) in methanol (20 mL) in a sealed-tube was heated to 80° C. for 2 h, cooled to room temperature and partitioned between ethyl acetate (3×30 mL) and water (50 mL). The combined organic extracts were washed (water, brine), dried (sodium sulfate) and concentrated in vacuo to give the product as a beige solid (0.87 g, 74%). A sample recrystallised from ethanol gave mp 94° C.; Found: C, 60.45; H, 4.58; N, 12.74%. C11H10N2O3 requires C, 60.55; H, 4.62; N, 12.83%.

reactant | 1-chloro-6-methyl-5-nitroisoquinoline | 5.4 mmol, 1.2 g | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
reactant | sodium methoxide | 11 mmol, 0.6 g | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-Methoxy-6-methyl-5-nitroisoquinoline | 0.87 g, 74% | COC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C11H10N2O3
